US05679712
1.0 eq. of methyl 3-acetyl-4-hydroxybenzoate was reacted with 1.1 eq. each of K2CO3 and benzyl bromide in absolute DMF to form methyl 3-acetyl-4-benzyloxybenzoate. Colorless crystals, mp 68°-72° C.

reactant | methyl 3-acetyl-4-hydroxybenzoate | 1.0 eq. | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
reactant | K2CO3 | 1.1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-acetyl-4-benzyloxybenzoate | C(C)(=O)C=1C=C(C(=O)OC)C=CC1OCC1=CC=CC=C1 | C17H16O4
